US07098212B2
2-(3-Amino-5-chloro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone
To a solution of 2-(5-chloro-3-nitro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone (0.96 g, 2.3 mmol) in ethanol (25 mL) was added platinum dioxide on carbon (0.90 mg, 5% on carbon). The reaction was subject to 35 psi hydrogen gas for 20 minutes. The reaction was filtered through celite, concentrated in vacuo and chromatographed on silica gel to give the title compound (0.78 g).

reactant | 2-(5-chloro-3-nitro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone | 2.3 mmol, 0.96 g | ClC=1C=C(C(=NC1)OCC(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)C)[N+](=O)[O-] | C19H20ClFN4O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | platinum dioxide | [Pt](=O)=O
product | 2-(3-Amino-5-chloro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone | 0.78 g | NC=1C(=NC=C(C1)Cl)OCC(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)C | C19H22ClFN4O2
